US05206370
Synthesis of 6-BOC-hydrazinopyridine-3-carboxylic acid
To a solution of 6-hydrazinopyridine-3-carboxylic acid (1.4 g; 9.8 mmol); triethylamine (1.2 ml; 11.8 mmol) in dimethylformamide (10 ml) was added di-t-butyldicarbonate (2.13 g; 9.8 mmol). The reaction mixture became homogeneous over 1 hour and stirring was continued for 16 hours at room temperature. The reaction mixture was concentrated to dryness under reduced pressure to give a brown solid. The residue was dissolved in a minimum amount of ethyl acetate and filtered through silica gel 60 (230-400 mesh) using ethyl acetate as eluent. The eluent was concentrated to dryness. The product was used without further purification.

reactant | 6-hydrazinopyridine-3-carboxylic acid | 9.8 mmol, 1.4 g | N(N)C1=CC=C(C=N1)C(=O)O | C6H7N3O2
reactant | triethylamine | 11.8 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 9.8 mmol, 2.13 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-BOC-hydrazinopyridine-3-carboxylic acid | C(=O)(OC(C)(C)C)C1=CC=C(C(=N1)NN)C(=O)O | C11H15N3O4
